US07414137B2
A dry three-necked round bottom flask fitted with an internal temperature probe and a mechanical stirrer was charged with 0.805 L of a 3 M solution of methylmagnesium chloride in THF. The solution was purged with nitrogen and cooled to 0° C. In a separate flask, 3-(4-methoxy-benzyl)-2-oxo-thiazolidine-4-carboxylic acid methoxy-methyl-amide (250.0 g, 0.805 mol) was dissolved in 1.00 L of dry THF. The resulting solution was added to the solution of methyl magnesium chloride at a rate that maintained an internal reaction temperature less than 5° C. The reaction was monitored by HPLC and was considered complete upon the disappearance of starting material. The reaction mixture was slowly added to 1.00 L of a 10% citric acid solution at a rate that maintained a temperature of less than 25° C. The mixture was diluted with 0.90 L of water. The THF was removed by distillation at atmospheric pressure. The product was extracted with 2.5 L of ethyl acetate. The organic phase was separated, concentrated to a final volume of ˜800 mL and cooled to room temperature. A suspension was formed by the addition of 16 L of n-heptane. The suspension was stirred for 30 minutes. The resulting solid was isolated by filtration and was dried in a vacuum oven at 40° C. for 12 hours. Approximately 170 g of 4-acetyl-3-(4-methoxy-benzyl)-thiazolidin-2-one was obtained (80% yield). 1H NMR (300 MHz, DMSO) δ 7.14 (d, 8.9 Hz, 2H), 6.88 (d, 8.9 Hz, 2H), 4.48 (dd, J=9.4, 2.6 Hz, 1H), 4.27 (AB, JAB=15.2 Hz, ΔvAB=267.3 Hz, 2H), 3.72 (s, 3H), 3.62 (dd, J=11.9, 10.0 Hz, 1H), 3.37 (dd, J=11.8, 2.6 Hz, 1H), 2.19 (s, 3H). 13C NMR (75 MHz, DMSO) δ 26.9, 27.9, 47.2, 55.8, 66.0, 114.7, 129.1, 130.0, 159.4, 171.7, 205.1; [α]26.5D-56.00 (c=1.39, EtOH).

reactant | methylmagnesium chloride | C[Mg]Cl
reactant | 3-(4-methoxy-benzyl)-2-oxo-thiazolidine-4-carboxylic acid methoxy-methyl-amide | 0.805 mol, 250.0 g | CON(C(=O)C1N(C(SC1)=O)CC1=CC=C(C=C1)OC)C | C14H18N2O4S
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 1.00 L | C1CCOC1 | C4H8O
solvent | water | 0.90 L | O | H2O
product | 4-acetyl-3-(4-methoxy-benzyl)-thiazolidin-2-one | 170 g, 80% yield | C(C)(=O)C1N(C(SC1)=O)CC1=CC=C(C=C1)OC | C13H15NO3S
